US05576324
3-Isopropyl-8-methyl-5-prenyloxycarbostyril
5-HYdroxy-3-isopropyl-8-methylcarbostyril (1.50 g, 6.91 mmol) was dissolved in dimethylformamide (30 ml). To the solution, potassium carbonate (3.00 g, 21.7 mmol) and prenyl bromide (0.90 ml, 7.67 mmol) were added, and the mixture was stirred at 70° C. for 7 hours. The reaction mixture was condensed under reduced pressure, and the resultant residue was extracted from chloroform-water. The organic phase was washed with saturated aqueous NaCl solution, dried, and condensed under reduced pressure. The residue was recrystallized from chloroform-ethyl acetate to obtain 1.85 g of the title compound as pale yellow needles (97.9%).

reactant | 5-HYdroxy-3-isopropyl-8-methylcarbostyril | 6.91 mmol, 1.50 g | OC1=C2C=C(C(NC2=C(C=C1)C)=O)C(C)C | C13H15NO2
reactant | potassium carbonate | 21.7 mmol, 3.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | prenyl bromide | 7.67 mmol, 0.90 ml | C(C=C(C)C)Br | C5H9Br
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-Isopropyl-8-methyl-5-prenyloxycarbostyril | 1.85 g, 97.9% | C(C)(C)C=1C(NC2=C(C=CC(=C2C1)OCC=C(C)C)C)=O | C18H23NO2
